US08247576B2
2-Phenyl-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethylamine
To a suspension of 2-(4-chlorophenyl)-2-phenylethylamine hydrochloride (134 mg, 0.5 mmol, 1.0 equiv.) (Array PPA-Q02-1) in toluene (0.8 ml) was added bis(tri-t-butylphosphine)palladium (0) (3 mg, 1 mol %) (Stem) and the mixture was purged with nitrogen. A suspension of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (107 mg, 0.55 mmol, 1.1 equiv.) (Aldrich 52, 505-7) in ethanol (0.8 ml) was added followed by potassium carbonate (415 mg, 3.0 mmol, 6 equiv.) in water (2.5 ml). The mixture was purged with nitrogen and sealed. The reaction mixture was heated in a CEM Explorer™ microwave to 135° C. for 15 minutes using 50 watts power. The solvents were removed and the residue was partitioned between ethyl acetate and 2N NaOH. The aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with brine, dried (MgSO4) and concentrated under reduced pressure. The crude reaction mixture was purified by column chromatography (SiO2), eluting with a mixture of dichloromethane (90 ml): methanol (18 ml): acetic acid (3 ml): H20 (2 ml) to afford the title compound 14 mg (9%); LCMS (PS-A) Rt 1.79 min; m/z [M+H]+ 264.

reactant | 2-(4-chlorophenyl)-2-phenylethylamine hydrochloride | 0.5 mmol, 134 mg, 1.0 equiv. | Cl.ClC1=CC=C(C=C1)C(CN)C1=CC=CC=C1
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.55 mmol, 107 mg, 1.1 equiv. | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | potassium carbonate | 3.0 mmol, 415 mg, 6 equiv. | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 0.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
solvent | water | 2.5 ml | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium | 3 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-Phenyl-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethylamine | 14 mg, 9% | C1(=CC=CC=C1)C(CN)C1=CC=C(C=C1)C=1C=NNC1 | C17H17N3
